.subckt nand3i_x1 A B1 B2 X VDD VSS
XM0I_P0 in0_b A VDD VDD pmos w=2u l=100n
XM0I_N0 in0_b A VSS VSS nmos w=1u l=100n
XMPA0 X in0_b VDD VDD pmos w=2u l=100n
XMPB0 X B1 VDD VDD pmos w=2u l=100n
XMPC0 X B2 VDD VDD pmos w=2u l=100n
XMNC0 X B2 nmid2 VSS nmos w=1u l=100n
XMNB0 nmid2 B1 nmid1 VSS nmos w=1u l=100n
XMNA0 nmid1 in0_b VSS VSS nmos w=1u l=100n
.ends nand3i_x1
